US04649146
To a solution of ethyl 2-methylamino-5-(4-pyridyl)-4-thiazolecarboxylate (2.6 g) in dry tetrahydrofuran (120 ml) was added lithium aluminum hydride (0.38 g) at -10° C. with stirring, which was continued at -10~-3° C. for 30 minutes. The reaction mixture was poured into ice-water and the resultant solution was acidified to pH 1.0 with 10% hydrochloric acid. The insoluble material was filtered off. The filtrate was adjusted to pH 7.0 with 20% aqueous solution of potassium carbonate and extracted with a mixture of ethyl acetate and tetrahydrofuran. The organic extract was concentrated in vacuo. The precipitate was collected by filtration, washed with ethyl acetate and dried in vacuo to give 4-formyl-2-methylamino-5-(4-pyridyl)thiazole (0.8 g). mp 243°-245° C. (dec.)

reactant | ethyl 2-methylamino-5-(4-pyridyl)-4-thiazolecarboxylate | 2.6 g | CNC=1SC(=C(N1)C(=O)OCC)C1=CC=NC=C1 | C12H13N3O2S
reactant | lithium aluminum hydride | 0.38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 4-formyl-2-methylamino-5-(4-pyridyl)thiazole | 0.8 g | C(=O)C=1N=C(SC1C1=CC=NC=C1)NC | C10H9N3OS
